US06638929B2
Fuming nitric acid (10 mL) is added dropwise to a −40° C. suspension of 5.00 g (23.36 mmol) of 4-(2-chloroethoxy)-3-methoxybenzaldehyde (Milbank, J. B. J., et. al., J. Med. Chem., 42(4), 649-658, 1999) in 23 mL of 1,2-dichloroethane. The reaction mixture is slowly allowed to warm to −10° C. The mixture is poured onto 300 mL of ice water and then extracted with ethyl acetate. The organic layer is dried over magnesium sulfate, filtered and concentrated in vacuo. Diethyl ether is added to the residue and the pale yellow solid is collected by filtration to provide 2.43 g (40%) of 4-(2-chloroethoxy)-5-methoxy-2-nitrobenzaldehyde, mp 148-150° C.

reactant | nitric acid | 10 mL | [N+](=O)(O)[O-] | HNO3
reactant | 4-(2-chloroethoxy)-3-methoxybenzaldehyde | 23.36 mmol, 5.00 g | ClCCOC1=C(C=C(C=O)C=C1)OC | C10H11ClO3
solvent | 1,2-dichloroethane | 23 mL | ClCCCl | C2H4Cl2
product | 4-(2-chloroethoxy)-5-methoxy-2-nitrobenzaldehyde | 2.43 g, 40% | ClCCOC1=CC(=C(C=O)C=C1OC)[N+](=O)[O-] | C10H10ClNO5
